US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (0.37 g, 1.0 mmol) and 3,5-dichlorophenylisocyanate (0.19 g, 1.0 mmol) in acetonitrile (10 mL), was added triethylamine (0.28 mL, 2.0 mmol) at room temperature under nitrogen. After 18 h, 1 N aq. HCl (10 mL) was added and the solids were isolated by filtration and washed with water (40 mL). The solids were triturated in EtOAc (10 mL) for 18 h, then isolated by filtration, washed with EtOAc (40 mL) and dried in vacuo to give 1-(3,5-dichloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.36 g, 78% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 10/90 to 90/10 CH3CN/0.1% H3PO4 gradient over 15 mins, 9.14 min (96.29%); mp: 274-276° C.; 1H NMR (DMSO-d6) δ 1.86-2.12 (m, 1H, CHH), 2.24-2.47 (m, 1H, CHH), 2.60 (d, J=16.4 Hz, 1H, CHH), 2.77-3.05 (m, 1H, CHH), 4.31 (d, J=17.4 Hz, 1H, CHH), 4.38-4.56 (m, 3H, CHH, CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, CH), 7.00 (t, J=5.9 Hz, 1H, NH), 7.08 (t, J=1.7 Hz, 1H, Ar), 7.44 (d, J=7.7 Hz, 1H, Ar), 7.48-7.59 (m, 3H, Ar), 7.70 (d, J=7.7 Hz, 1H, Ar), 9.08 (s, 1H, NH), 10.99 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 31.20, 42.83, 47.12, 51.58, 115.78, 120.16, 121.92, 122.94, 126.92, 130.35, 133.93, 142.39, 142.93, 144.43, 154.77, 167.92, 170.98, 172.85; LCMS: MH=461/463/465; Anal Calcd for C21H18N4O4Cl2: C, 54.68; H, 3.93; N, 12.15; Cl, 15.37. Found: C, 54.61; H, 3.78; N, 11.84; Cl, 15.10.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 1.0 mmol, 0.37 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3,5-dichlorophenylisocyanate | 1.0 mmol, 0.19 g | ClC=1C=C(C=C(C1)Cl)N=C=O | C7H3Cl2NO
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 N, 10 mL | Cl | ClH
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(3,5-dichloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.36 g, 78% yield | ClC=1C=C(C=C(C1)Cl)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C21H18Cl2N4O4
